US06103766
Preparation of 2-[4-(4-bromobenzenesulfonamido)phenyl]ethyl-propylamine (10)
Using procedure 4, 4-bromobenzenesulfonyl chloride was added to 2-(4-aminophenyl)ethyl-1-(tert-butoxycarbonyl)propylamine to give the title compound as a solid, m.p. 141-143° C.

reactant | 4-bromobenzenesulfonyl chloride | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | 2-(4-aminophenyl)ethyl-1-(tert-butoxycarbonyl)propylamine | NC1=CC=C(C=C1)CCNC(CC)C(=O)OC(C)(C)C | C16H26N2O2
product | 2-[4-(4-bromobenzenesulfonamido)phenyl]ethyl-propylamine | BrC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)CCNCCC | C17H21BrN2O2S
